Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
headache,
poor coordination, and bumping into things on the right. 
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ female with a PMHx of epilepsy on
Dilantin (last seizure ___ and OSA who presents with headache,
poor coordination, and bumping into things on the right. 

3 weeks ago, a student accidentally ran into her, causing her to
hit the back of her head against a glass door. She remembers the 
impact well and did notlose consciousness. She did not have any 
confusion or dizziness
afterward, but she has been getting headaches ___ times per week
since that incident. She has also had a humming sound in her 
ears
bilaterally since the fall. She has not had any subsequent
traumas. 

On ___ between 1pm and 2pm, she again got a left
temporo-parietal headache. Shortly thereafter, she noticed that
she was hitting the wrong buttons on her ipad. She is not sure
why this is but she denies a problem with her vision; she thinks
she might have been less coordinated than usual with her right
hand. She also notes that attempted to reach for the faucet but
missed. She began bumping into things on her right side. She 
also
noticed that, although she was able to visualize the entire
clock, she had trouble interpreting it to tell time. 

She presented to  ___ in ___ on ___, and a
head CT demonstrated 1.8 cm left occipital hemorrhage with
vasogenic edema but no hydrocephalus. She was transferred to
___ and evaluated by neurosurgery in the ED; they recommended
neurology evaluation, repeat imaging the next day at 0500, MRI
brain with and without contrast, and SBP<160.

Of note, she has a history of epilepsy which began in infancy
after a fall down the stairs. Her seizure semiology is seeing 
familiar people conversing but she is unable to discern any 
details of teh conversation. She describes these episodes as 
quite pleasant though sh ___ are unreal. There is 
however a dream like quality to them. Her last seizure was in 
___. She is treated on Dilantin and followed by Dr. ___ in 
___.

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus, and hearing difficulty. Denies difficulties producing
or comprehending speech.  Denies focal weakness, numbness, and
parasthesiae. No bowel or bladder incontinence or retention. 

Positive: often feels hot/cold although denies frank fevers or
chills; recent diarrhea.
On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Epilepsy
GERD
OSA

Surgical History  (Last Verified - None on file):
Cholecystectomy
Hysterectomy  
 
Social History:
___
Family History:
Father--stroke, ___, mother--AD   
 
Physical ___:
Admission exam:
PHYSICAL EXAMINATION
Vitals: HR: 69  BP: 158/72 RR: 14  SaO2: 97RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x ___ (oriented to
hospital but did not know ___. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF shows a right inferior 
quadrantanopsia.
EOMI, no nystagmus. Hypometric saccades. V1-V3 with decreased
sensation on right to LT and temp (90% of normal in V1, 95% of
normal in V2, V3 normal). No facial movement asymmetry. Hearing 
intact to finger rubbilaterally.  Palate elevation symmetric. 
SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Brisk at the knees
Plantar response flexor bilaterally 

- Sensory: Decreased sensation to LT, PP, and temperature in RUE
and RLE (RUE/RLE 90% of normal to LT, 80% of normal to temp and
PP). Proprioception ok.

- Coordination: R>>L dysmetria on FNF. Overshoot with mirror
testing. Irregular finger tap and rapid alternating movements. 

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Negative Romberg. Trouble with
tandem (did not fall one to one particular side). 

Discharge exam:
Vitals: HR: 60  BP: 110-140/80 RR: 14  SaO2: 97RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, attentive.  Provides a clear and
detailed hx.  Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. No apraxia. No
evidence of hemineglect. No left-right confusion. Able to follow
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. Right lower temporal 
quadrantanopsia.
EOMI, no nystagmus. Normal saccades. Facial sensation intact. No
facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor:  Normal bulk and tone. No drift. Full strength in 
uppers
and lowers
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  2+    2+     2+      2+       1
 R  2+    2+     2+      2+       1  
Toes downgoing

- Sensory: Intact to LT and cold.

- Coordination: There is a mild, b/l, L>R appendicular ataxia
with mild and inconsistent overshoot.  RAM are mildly clumsy in
the uppers.  HKS intact.
 

 
Pertinent Results:
___ 09:30AM   GLUCOSE-124* UREA N-11 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-24 ANION GAP-15
___ 09:30AM   ALT(SGPT)-21 AST(SGOT)-24 LD(LDH)-281* 
CK(CPK)-62 ALK PHOS-72 TOT BILI-0.5
___ 09:30AM   GGT-91*
___ 09:30AM   CK-MB-2 cTropnT-<0.01
___ 09:30AM   TOT PROT-7.0 ALBUMIN-4.1 GLOBULIN-2.9 
CHOLEST-171
___ 09:30AM   %HbA1c-5.5 eAG-111
___ 09:30AM   TRIGLYCER-68 HDL CHOL-73 CHOL/HDL-2.3 
LDL(CALC)-84
___ 09:30AM   TSH-2.0
___ 09:30AM   WBC-5.6 RBC-4.36 HGB-13.8 HCT-39.2 MCV-90 
MCH-31.7 MCHC-35.2 RDW-12.8 RDWSD-42.3
___ 09:30AM   NEUTS-60.6 ___ MONOS-7.3 EOS-1.6 
BASOS-0.7 IM ___ AbsNeut-3.38 AbsLymp-1.64 AbsMono-0.41 
AbsEos-0.09 AbsBaso-0.04
___ 09:30AM   PLT COUNT-176
___ 09:30AM   ___ PTT-28.3 ___
___ 12:05AM URINE  HOURS-RANDOM
___ 12:05AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:05AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:05AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 12:05AM URINE  RBC-1 WBC-7* BACTERIA-NONE YEAST-NONE 
EPI-3
___ 12:05AM URINE  MUCOUS-RARE
___ 08:48PM   ___ PTT-27.0 ___
___ 08:20PM   GLUCOSE-125* UREA N-13 CREAT-0.8 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-24 ANION GAP-17
___ 08:20PM   estGFR-Using this
___ 08:20PM   ALT(SGPT)-21 AST(SGOT)-19 ALK PHOS-76 TOT 
BILI-0.3
___ 08:20PM   cTropnT-<0.01
___ 08:20PM   ALBUMIN-4.4 CALCIUM-9.5 PHOSPHATE-3.7 
MAGNESIUM-2.1
___ 08:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:20PM   WBC-8.9 RBC-4.40 HGB-13.9 HCT-39.3 MCV-89 
MCH-31.6 MCHC-35.4 RDW-12.8 RDWSD-41.3
___ 08:20PM   NEUTS-66.2 ___ MONOS-6.7 EOS-1.0 
BASOS-0.6 IM ___ AbsNeut-5.92 AbsLymp-2.25 AbsMono-0.60 
AbsEos-0.09 AbsBaso-0.05
___ 08:20PM   PLT COUNT-200

CTA head and neck
IMPRESSION:
 
 
1. Stable hemorrhagic focus within the left occipital lobe, 
possibly
representing lobar hematoma.  Possibility of hemorrhagic 
neoplasm is not
excluded.
2. No evidence of vascular malformation or aneurysm.
3. Atherosclerotic disease at the right carotid bifurcation with 
less than 25%
right internal carotid artery stenosis by NASCET criteria.
 
RECOMMENDATION(S):  Correlation with MRI of the brain is 
recommended for
further characterization of a left occipital hemorrhagic focus.  
Additionally
long-term followup until complete resolution of the hematoma is 
recommended to
rule out underlying abnormalities in the region.

CT head
IMPRESSION:
 
 
1. Interval stability of left occipital intraparenchymal 
hemorrhage with
associated vasogenic edema.

MRI head
IMPRESSION:
 
 
1. Unchanged 18 x 14 mm left occipital intraparenchymal 
hemorrhage without
definite underlying lesion.  Continued surveillance imaging to 
resolution of
hemorrhage is recommended in order to exclude an underlying 
lesion which could
be obscured by hemorrhage.
2. No infarct, new hemorrhage, or enhancing mass.
 
Brief Hospital Course:
___ right handed woman with a pmhx of epilepsy on longstanding 
Dilantin and OSA who presents with clumsiness and bumping into 
things, found to have small left occipital IPH of unclear 
etiology. The CTA does not show any obvious vascular 
malformation. MRI with contrast Brain redemonstrates the left 
occipital hemorrhage with some peripheral enhancement with 
contrast but no intralesional enhancement to suggest a tumor. 
The plan is to repeat MRI in ~1 month to assess for underlying 
lesion. She will then follow up with neurology and neurosurgery 
for possible angiography. She as evaluated by ___ who recommended 
home with outpatient ___. She was advised against driving. She 
was advised to stop taking her home celecoxib for the time 
being. She was discharged in stable condition.

Transitional Issues:
-Repeat MRI brain 
-neurology follow up
-neurosurgery follow up
AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Phenytoin Sodium Extended 200 mg PO QAM 
2. Phenytoin Sodium Extended 300 mg PO QPM 
3. Omeprazole 20 mg PO DAILY 
4. Celecoxib 100 mg oral PRN 
5. Vitamin D 4000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Omeprazole 20 mg PO DAILY  
3.  Phenytoin Sodium Extended 200 mg PO QAM  
4.  Phenytoin Sodium Extended 300 mg PO QPM  
5.  Vitamin D 4000 UNIT PO DAILY  
6.Outpatient Occupational Therapy
___ F w right visual field cut.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ - 

You were admitted to ___ with symptoms of right sided visual 
loss which is due to an intraparenchymal hemorrhage (IPH) (bleed 
in your brain). You underwent CTA head which did not show any 
abnormal vessels. MRI brain redemonstrated the hemorrhage which 
is located in the back of the brain in a region called the 
occipital lobe.
We will repeat your MRI brain in ~4 weeks to get a better view 
once the blood is reabsorbed.

To schedule the MRI brain please call ___.

Please stop taking your home celecoxib for the time being. Use 
Tylenol as a pain reliever if needed. No other changes were made 
to your medications. 

Given your visual symptoms, you should not drive.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team 

 
Followup Instructions:
___